US04048306
Diethylphosphonoacetaldehyde-erythromycylamine condensation product by method A
A mixture consisting of 2.3 gm (0.003mol) of erythromycylamine, 1.4 gm (0.006 mol) of diethylphosphonoacetaldehyde-dimethylacetal, 20 ml of dioxane, 2 ml of water and 12 gm of Dowex W 50 was stirred at room temperature. After 6 hours of stirring the ion exchanger was filtered off and washed with dioxane. Water was added to the filtrate until crystallization started. The white product was suction-filtered off, washed with aqueous dioxane and dried. Yield: 1.4 gm (52% of theory), m.p. 110°-113° C (decomp.).

reactant | erythromycylamine | 0.003mol, 2.3 gm | CC[C@@H]1[C@@]([C@@H]([C@H]([C@H]([C@@H](C[C@@]([C@@H]([C@H]([C@H]([C@H](C(=O)O1)C)O[C@H]2C[C@@]([C@H]([C@@H](O2)C)O)(C)OC)C)O[C@H]3[C@@H]([C@H](C[C@H](O3)C)N(C)C)O)(C)O)C)N)C)O)(C)O | C37H70N2O12
reactant | diethylphosphonoacetaldehyde-dimethylacetal | 0.006 mol, 1.4 gm | COC(CP(=O)(OCC)OCC)OC | C8H19O5P
reactant | dioxane | 20 ml | O1CCOCC1 | C4H8O2
solvent | water | 2 ml | O | H2O
product | Diethylphosphonoacetaldehyde erythromycylamine | C(C)OP(=O)(OCC)CC=O.CC[C@@H]1[C@@]([C@@H]([C@H]([C@H]([C@@H](C[C@@]([C@@H]([C@H]([C@H]([C@H](C(=O)O1)C)O[C@H]2C[C@@]([C@H]([C@@H](O2)C)O)(C)OC)C)O[C@H]3[C@@H]([C@H](C[C@H](O3)C)N(C)C)O)(C)O)C)N)C)O)(C)O | InChI=1S/C37H70N2O12.C6H13O4P/c1-14-25-37(10,45)30(41)20(4)27(38)18(2)16-35(8,44)32(51-34-28(40)24(39(11)12)15-19(3)47-34)21(5)29(22(6)33(43)49-25)50-26-17-36(9,46-13)31(42)23(7)48-26;1-3-9-11(8,6-5-7)10-4-2/h18-32,34,40-42,44-45H,14-17,38H2,1-13H3;5H,3-4,6H2,1-2H3/t18-,19-,20+,21+,22-,23+,24+,25-,26+,27+,28-,29-,30-,31+,32-,34+,35-,36-,37-;/m1./s1
